US06803378B2
2,2-Bis-(4-fluoro-phenyl)-N-methyl-acetamide
A mixture of bis-(4-fluorophenyl)-acetic acid (8.07 g, 32.5 mmol) (prepared using the procedure of Takahashi, Y. et al., Chem. Lett., 1985, 1733.), in dichloromethane (30 ml) was treated at 22° C. with oxalyl chloride (5.5 ml, 65.0 mmol) and a drop of N,N-dimethylformamide. After 18 h at 22° C., the solvent and excess reagent were evaporated under reduce pressure. The residual oil was then dissolved in dry tetrahydrofuran (10 ml) and added dropwise and under good stirring to a cold (0-5° C.) mixture of methylamine hydrochloride (10.9 g, 0.16 mol), sodium hydroxide (6 g) in water (50 ml) and tetrahydrofuran (100 ml). After 1 h at 22° C., the reaction mixture was diluted with ethyl acetate, washed successively with water, 1N hydrochloric acid, saturated sodium bicarbonate, brine and dried (magnesium sulfate). Evaporation of the solvent and crystallization of the residue in ethyl acetate gave 7.75 g (91%) of the title material as white needles: mp 179-180° C. 1HNMR 400 MHz (CDCl3) δ (ppm): 2.86 (3H d, J=5.1 Hz, NCH3), 4.87 (1H, s, CH) 5.65 (1H, broad, NH), 7.04 and 7.23 (2×4H, 2 m, aromatics). Anal. Calcd for C15H13F2NO: C, 68.96; H, 5.02; N, 5.36. Found: C, 68.88; H, 4.49; N, 5.75.

reactant | bis-(4-fluorophenyl)-acetic acid | 32.5 mmol, 8.07 g | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | oxalyl chloride | 65.0 mmol, 5.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine hydrochloride | 0.16 mol, 10.9 g | Cl.CN
reactant | sodium hydroxide | 6 g | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,2-Bis-(4-fluoro-phenyl)-N-methyl-acetamide | 7.75 g, 91% | FC1=CC=C(C=C1)C(C(=O)NC)C1=CC=C(C=C1)F | C15H13F2NO
